US07012075B2
To N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)leucine (350 mg, 0.763 mmol), PyBOP (440 mg, 0.84 mmol), aminoacetonitrile hydrochloride (155 mg, 1.68 mmol) in dry DMF (10 mL) under dry nitrogen was added triethylamine (0.38 mL, 2.67 mmol) dropwise and the reaction stirred for 2½ hours. Aqueous sat. NaHCO3 was added and the product extracted with Et2O (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 4/6) to afford N1-(cyanomethyl)-N2-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)leucinamide.

reactant | N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)leucine | 0.763 mmol, 350 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C(=NON1)N[C@@H](CC(C)C)C(=O)O | C23H33N5O5
reactant | PyBOP | 0.84 mmol, 440 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | aminoacetonitrile hydrochloride | 1.68 mmol, 155 mg | Cl.NCC#N
reactant | triethylamine | 2.67 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N1-(cyanomethyl)-N2-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)leucinamide | C(#N)CNC([C@@H](NC1=NON=C1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)CC(C)C)=O | C25H35N7O4
